US08349870B2
Preparation of methyl 4-[4-(4,5-dihydro-5-phenyl-3-isoxazoly)-2-thiazolyl]-N-(2,5-dimethylphenyl)-1-piperidinecarboximidate
A solution of methyl 4-[4-(4,5-dihydro-5-phenyl-3-isoxazolyl)-2-thiazolyl]-N-(2,5-dimethylphenyl)-1-piperidinecarboximidothioate (i.e. the product of Example 1, Step D) (0.10 g, 0.20 mmol) in methanol (5 mL) was heated in a Biotage® Creator XM microwave apparatus at 140° C. for 1.5 h. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using 1:1 ethyl acetate-hexanes as eluant to provide the title compound, a compound of the present invention, as a foamy white solid (19 mg).

reactant | methyl 4-[4-(4,5-dihydro-5-phenyl-3-isoxazolyl)-2-thiazolyl]-N-(2,5-dimethylphenyl)-1-piperidinecarboximidothioate | C1(=CC=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=NC1=C(C=CC(=C1)C)C)SC | C27H30N4OS2
reactant | methanol | 5 mL | CO | CH4O
product | methyl 4-[4-(4,5-dihydro-5-phenyl-3-isoxazoly)-2-thiazolyl]-N-(2,5-dimethylphenyl)-1-piperidinecarboximidate | C1(=CC=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(OC)=NC1=C(C=CC(=C1)C)C | C27H30N4O2S
